US07531532B2
4-Dimethylaminopiperidine-1-carboxylic acid [6-(2-fluoro-4-{3-[2-(4-fluorophenyl)acetyl]thioureido}phenoxy)pyrimidin-4-yl]amide
After dissolving 4-dimethylaminopiperidine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide (89.3 mg) in ethanol (2 ml), D-10-camphorsulfonic acid (55.3 mg) was added and the mixture was stirred for 5 minutes under a nitrogen atmosphere. A 0.24 M solution of 2-(4-fluorophenyl)acetyl isothiocyanate in toluene (0.4 ml) was then added and the mixture was stirred for 1 hour. Then, a 0.24 M solution of 2-(4-fluorophenyl)acetyl isothiocyanate in toluene (0.4 ml) was further added to the reaction mixture and stirring was continued for 1 hour. Ethyl acetate (30 ml) and saturated aqueous sodium hydrogencarbonate (20 ml) were added to the reaction mixture for partition, and the organic layer was washed with saturated aqueous sodium hydrogencarbonate (20 ml), water (20 ml) and brine (20 ml) and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; heptane:ethyl acetate=8:1), and then fractions containing the target compound were concentrated under reduced pressure. Diethyl ether (0.5 ml) and hexane (4.0 ml) were added to the resultant residue to produce a suspension. After filtering the solid, it was subjected to aeration drying to provide the title compound (24.9 mg, 18.4%) as a white solid.

reactant | 4-dimethylaminopiperidine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide | 89.3 mg | NC1=CC(=C(OC2=CC(=NC=N2)NC(=O)N2CCC(CC2)N(C)C)C=C1)F | C18H23FN6O2
reactant | D-10-camphorsulfonic acid | 55.3 mg | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
reactant | 2-(4-fluorophenyl)acetyl isothiocyanate | FC1=CC=C(C=C1)CC(=O)N=C=S | C9H6FNOS
reactant | sodium hydrogencarbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | toluene | 0.4 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.4 ml | C1(=CC=CC=C1)C | C7H8
solvent | Ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 4-Dimethylaminopiperidine-1-carboxylic acid [6-(2-fluoro-4-{3-[2-(4-fluorophenyl)acetyl]thioureido}phenoxy)pyrimidin-4-yl]amide | 24.9 mg, 18.4% | FC1=C(OC2=CC(=NC=N2)NC(=O)N2CCC(CC2)N(C)C)C=CC(=C1)NC(=S)NC(CC1=CC=C(C=C1)F)=O | C27H29F2N7O3S
